*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-1N6
* Inductance = 1.3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-23.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-1N6_freq port1 port2 PARAMS: Cpar=0.042pF Ind=1.3nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.03
+ C= {Cpar}
+ K1=0.00000291
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5705.67535
.ends 0603HC-1N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-3N6
* Inductance = 3.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-3N6_freq port1 port2 PARAMS: Cpar=0.037pF Ind=3.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.048
+ C= {Cpar}
+ K1=0.0000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9534.12035
.ends 0603HC-3N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-3N9
* Inductance = 3.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-3N9_freq port1 port2 PARAMS: Cpar=0.037pF Ind=3.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.054
+ C= {Cpar}
+ K1=0.0000097
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9874.50741
.ends 0603HC-3N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-6N8
* Inductance = 6.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-6N8_freq port1 port2 PARAMS: Cpar=0.052pF Ind=6.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=4
+ R2=0.054
+ C= {Cpar}
+ K1=0.0000139
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24774.3341
.ends 0603HC-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-7N5
* Inductance = 7.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-7N5_freq port1 port2 PARAMS: Cpar=0.078pF Ind=7.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=4
+ R2=0.059
+ C= {Cpar}
+ K1=0.0000151
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18404.7612
.ends 0603HC-7N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-10N_freq port1 port2 PARAMS: Cpar=0.045pF Ind=10nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.071
+ C= {Cpar}
+ K1=0.0000205
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18875.7614
.ends 0603HC-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-12N_freq port1 port2 PARAMS: Cpar=0.079pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.075
+ C= {Cpar}
+ K1=0.0000248
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12895.7615
.ends 0603HC-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-15N_freq port1 port2 PARAMS: Cpar=0.062pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.08
+ C= {Cpar}
+ K1=0.0000312
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18258.6781
.ends 0603HC-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-18N_freq port1 port2 PARAMS: Cpar=0.085pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.099
+ C= {Cpar}
+ K1=0.0000332
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12377.8578
.ends 0603HC-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-22N_freq port1 port2 PARAMS: Cpar=0.062pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.099
+ C= {Cpar}
+ K1=0.0000384
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20259.1308
.ends 0603HC-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-24N
* Inductance = 24nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-24N_freq port1 port2 PARAMS: Cpar=0.095pF Ind=24nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.105
+ C= {Cpar}
+ K1=0.000045
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14362.3876
.ends 0603HC-24N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
